US05077297
N-Iodosuccinimide (2.75 g) was added to a stirred suspension of 4-trifluoromethylpyrimidin-6-one (1 g) in dry acetonitrile (13 ml). The reaction mixture was stirred at the ambient temperature for 2 hours, and then heated under reflux for 10 hours. After cooling, removal of the solvent under reduced pressure gave a brown solid which was recrystallised from water to give 5-iodo-4-trifluoromethylpyrimidin-6-one as a pale orange solid (150 mg);

reactant | N-Iodosuccinimide | 2.75 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 4-trifluoromethylpyrimidin-6-one | 1 g | FC(C=1N=CNC(C1)=O)(F)F | C5H3F3N2O
solvent | acetonitrile | 13 ml | C(C)#N | C2H3N
product | 5-iodo-4-trifluoromethylpyrimidin-6-one | 150 mg | IC1=C(N=CNC1=O)C(F)(F)F | C5H2F3IN2O
